US06562897B1
This was prepared in similar manner to Lactone 1 except using 4-methyl cyclohexanone (50 parts; 0.445 m ex. Aldrich) in place of the 3-methylcyclohexanone with appropriate increase in the dichloromethane (1500 ml), sodium bicarbonate (8.1 parts, 1.0M) and 3-chloroperoxybenzoic acid (123 parts, 0.5M). The reaction temperature was maintained below 10° C. throughout. The 5-methyl ε-caprolactone was obtained as a clear yellow oil (49 parts).

reactant | 4-methyl cyclohexanone | CC1CCC(CC1)=O | C7H12O
reactant | sodium bicarbonate | 1.0M | C([O-])(O)=O.[Na+]
reactant | 3-chloroperoxybenzoic acid | 0.5M | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 1500 ml | ClCCl | CH2Cl2
product | 5-methyl ε-caprolactone | CC1CCCC(=O)OC1 | C7H12O2
